US05688946
A mixture of 5.7 (20 mmol) of (S)-α-[(tert-butylsulphonyl)methyl)hydrocinnamic acid (EPA 0236734) 4.85 g (20 mmol) of L-histidine methyl ester dihydrochloride, 10.3 ml (81.7 mmol) of N-ethylmorpholine and 2.98 g (20 mmol) of HOBT in 85 ml of dimethylformamide is treated portionwise at 0°-2° under argon with 4.23 g (22 mmol) of EDC and subsequently stirred at room temperature overnight. Thereafter, the solvent is evaporated in a high vacuum, the residue is taken up in 100 ml of ethyl acetate and washed in sequence three times with 10 ml of 2N sodium bicarbonate solution, twice with 10 ml of saturated sodium chloride solution, twice with 10 ml of saturated ammonium chloride solution and twice with 5 ml of saturated sodium chloride solution. The aqueous phases are extracted three times with 20 ml of ethyl acetate and the pooled organic phases are dried over sodium sulphate and evaporated under reduced pressure. For purification, the crude product obtained (9.4 g) is chromatographed on 300 g of silica gel using a 95:5 mixture of methylene chloride and methanol as the eluent. There are obtained 8.6 g of methyl (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]imidazolpropionate as a colourless foam; MS: 436 (M+H)+.

reactant | (S)-α-[(tert-butylsulphonyl)methyl)hydrocinnamic acid | 20 mmol, 4.85 g | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)O)CC1=CC=CC=C1 | C14H20O4S
reactant | L-histidine methyl ester dihydrochloride | Cl.Cl.COC([C@@H](N)CC1=CNC=N1)=O
reactant | N-ethylmorpholine | 81.7 mmol, 10.3 ml | C(C)N1CCOCC1 | C6H13NO
reactant | HOBT | 20 mmol, 2.98 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 22 mmol, 4.23 g
solvent | dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
product | methyl (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]imidazolpropionate | 8.6 g | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)OC)CC=1NC=CN1)CC1=CC=CC=C1 | C21H29N3O5S
